US04394515
2(3'-Bromophenylthio)-5-nitrobenzoic Acid
A mixture of 205 g. 3-bromothiophenol, 188 g. potassium hydroxide in 2 l. water, 205 g. 2-chloro-5-nitrobenzoic acid and 6.5 g. copper powder is refluxed for two hours, filtered while hot, acidified with hydrochloric acid and the solid filtered, washed with water and dried to yield 301 g. of the desired white solid, m.p. 202°-206° C.

reactant | 3-bromothiophenol | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-chloro-5-nitrobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
catalyst | copper | [Cu] | Cu
solvent | water | O | H2O
product | 2(3'-Bromophenylthio)-5-nitrobenzoic Acid | BrC=1C=C(C=CC1)SC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C13H8BrNO4S
